US06565829B2
2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]-N,N-dimethylethanamine
A solution of 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]-N-methylethanamine hydrochloride (0.34 g, 0.91 mmol) and formaldehyde (37%, 1.4 mL, 18.80 mmol) in acetonitrile was treated with sodium cyanoborohydride (0.92 g, 14.69 mmol) in portions. The reaction was stirred at room temperature for 2.5 days. The reaction mixture was concentrated in vacuo and the residue partitioned between CHCl3 and NH4OH. The layers were separated and the aqueous layer was extracted with CHCl3. The organic layers were combined, washed with brine, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo and subjected to column chromatography (silica gel, 75% EtOAc/hexane) to give 0.08 g (23%) of white solid as the title compound: mp 169.6-171.9° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.07 (s, 1H), 7.93-7.91 (m, 2H), 7.63-7.55 (m, 5H), 3.67 (s, 3H), 2.86-2.82 (m, 2H), 2.41-2.37 (m, 2H), 2.36 (s, 3H), 2.24 (s, 6H); 13C NMR (100 MHz, DMSO-d6) δ 142.8, 137.9, 136.8, 132.7, 130.3, 129.3, 126.8, 126.7, 118.7, 118.0, 110.2, 110.0, 59.9, 44.9, 29.7, 21.8, 9.9; IR (diffuse reflectance) 2936, 2776, 2760, 1482, 1449, 1377, 1303, 1285, 1153, 1143, 1094, 729 (s), 687, 651, 619 cm−1; HRMS (FAB) calcd for C20H24N2O2S+H 357.1637, found 357.1649; Anal. Calcd for C20H24N2O2S: C, 65.72; H, 6.88; N, 7.66. Found: C, 65.52; H, 6.71; N, 7.73.

reactant | 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]-N-methylethanamine hydrochloride | 0.91 mmol, 0.34 g | Cl.CN1C(=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCNC)C
reactant | formaldehyde | 18.80 mmol, 1.4 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 14.69 mmol, 0.92 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[1,2-dimethyl-5-(phenylsulfonyl)-1H-indol-3-yl]-N,N-dimethylethanamine | 0.08 g, 23% | CN1C(=C(C2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)CCN(C)C)C | C20H24N2O2S
